US07645771B2
N-acetyl-2-chloro-5-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzene-sulfonamide (21.8 mg, quant.) was obtained as amorphous solid from 2-chloro-5-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzenesulfonamide and acetyl bromide following the procedure outlined in example 476. 1H NMR (300 MHz, DMSO-d6) 87.85-7.50 (m, 3H), 7.49 (d, J=8.5 Hz, 1H), 7.41-7.35 (m, 5H), 7.25-7.21 (m, 1H), 7.15-7.09 (m, 2H), 4.54 (br, 1H), 3.96 (br, 1H), 3.42-3.29 (m, 5H), 3.06-3.03 (m, 1H), 2.45-2.36 (m, 5H), 2.17-2.07 (m, 2H), 1.98-1.75 (m, 10H), 1.71-1.70 (m, 3H), 1.63-1.61 (m, 2H). HRMS m/z (M+H)+ calcd: 688.2724, obsd: 688.2745.

reactant | 2-chloro-5-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzenesulfonamide | ClC1=C(C=C(C=C1)C(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)S(=O)(=O)N | C35H40ClN5O3S
reactant | acetyl bromide | C(C)(=O)Br | C2H3BrO
product | N-acetyl-2-chloro-5-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzene-sulfonamide | 21.8 mg | C(C)(=O)NS(=O)(=O)C1=C(C=CC(=C1)C(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)Cl | C37H42ClN5O4S
